US08012956B2
A mixture of 1,1-dimethylethyl 4-(aminocarbonyl)-3-nitrobenzoate (213 mg, 0.80 mmol), 10% palladium on charcoal (Degussa type, 200 mg) in ethyl acetate (20 mL) was shaken in a Parr hydrogenation apparatus at 35 psi for 4 hours. The reaction mixture was filtered and concentrated to give 1,1-dimethylethyl 3-amino-4-(aminocarbonyl)benzoate (180 mg, 95% yield). MS (EI) for C12H16N2O3: 237 (MH+).

reactant | 1,1-dimethylethyl 4-(aminocarbonyl)-3-nitrobenzoate | 0.80 mmol, 213 mg | NC(=O)C1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C12H14N2O5
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-dimethylethyl 3-amino-4-(aminocarbonyl)benzoate | 180 mg, 95% yield | NC=1C=C(C(=O)OC(C)(C)C)C=CC1C(=O)N | C12H16N2O3
